US05994356
a) Ethyl 4-nitrophenoxyacetate
125.4 g (0.9 mol) of 4-nitrophenol are dissolved in 1000 ml of absolute dimethylformamide and, after addition of 150.6 g (0.9 mol) of dried potassium carbonate, the solution is stirred at room temperature for 45 minutes. 150.6 g=100 ml (0.9 mol) of ethyl bromoacetate are then added dropwise with stirring and the suspension is then heated at an oil bath temperature of 80° C. for 5 hours. The heating is switched off and the suspension is stirred for a further 15 hours, the reaction mixture slowly coming to room temperature. The undissolved inorganic salts are filtered off with suction and the filtrate is concentrated to dryness in vacuo. The residue is partitioned between ethyl acetate and water. The organic phase is extracted with water a further 2 times and then dried over sodium sulphate, filtered and concentrated. The residue is triturated with petroleum ether and filtered off with suction. 192.0 g (95% of theory) of the desired product are obtained, which is processed further without further purification.

reactant | 4-nitrophenol | 0.9 mol, 125.4 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 0.9 mol, 150.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.9 mol, 100 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 1000 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-nitrophenoxyacetate | [N+](=O)([O-])C1=CC=C(OCC(=O)OCC)C=C1 | C10H11NO5
